US08877825B2
Into an autoclave equipped with a stirrer, triethylamine (1 mol), dimethyl carbonate (1.5 mol) and methanol (2 mol) as a solvent, were charged and reacted at a reaction temperature of 110° C. for 12 hours to obtain a methanol solution of methyltriethylammonium carbonate. Acetic acid (1 mol) was charged thereto, and as a solvent, ethylene glycol was added to a predetermined concentration. Then, by means of an evaporator, carbon dioxide formed as a byproduct and methanol were removed to obtain a solution comprising 50% methyltriethylammonium acetate and 50% of ethylene glycol.

reactant | triethylamine | 1 mol | C(C)N(CC)CC | C6H15N
reactant | dimethyl carbonate | 1.5 mol | C(OC)(OC)=O | C3H6O3
solvent | methanol | CO | CH4O
solvent | methanol | 2 mol | CO | CH4O
product | methyltriethylammonium carbonate | C([O-])([O-])=O.C[N+](CC)(CC)CC.C[N+](CC)(CC)CC | InChI=1S/2C7H18N.CH2O3/c2*1-5-8(4,6-2)7-3;2-1(3)4/h2*5-7H2,1-4H3;(H2,2,3,4)/q2*+1;/p-2
